US08609698B2
tert-Butyl 6-hydrazinopyridine-3-carboxylate
18.0 g (84.2 mmol) of tert-butyl 6-chloropyridine-3-carboxylate are initially charged in 85 ml of ethanol. 42.2 g (842.0 mmol) of hydrazine hydrate are added, and the mixture is stirred at 100° C. for 2 h. The mixture is then concentrated, and the residue is taken up in a mixture of ethyl acetate and water. The phases are separated, and the organic phase is washed once with water and once with saturated sodium chloride solution, dried over magnesium sulfate and concentrated again. The residue is triturated with petroleum ether, and the solid formed is filtered off and dried under high vacuum.

reactant | tert-butyl 6-chloropyridine-3-carboxylate | 84.2 mmol, 18.0 g | ClC1=CC=C(C=N1)C(=O)OC(C)(C)C | C10H12ClNO2
reactant | hydrazine hydrate | 842.0 mmol, 42.2 g | O.NN
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | tert-Butyl 6-hydrazinopyridine-3-carboxylate | N(N)C1=CC=C(C=N1)C(=O)OC(C)(C)C | C10H15N3O2
